US06673347B1
(d) Preparation of Nε-dansyl-Nα-(m-formylbenzoyl)-lysine
Nε-dansyl-L-lysine (Sigma, 9.5 mg) was dissolved in 100 μl dimethylformamide under gentle warming. N-ethylmorpholine (3 μl) was added, so that the apparent pH, as judged by spotting onto moist pH paper, was between 8 and 8.5. This solution was mixed with a solution of 7.3 mg of the hydroxysuccinimido ester of 4-carboxybenzaldehyde dimethylacetal in 50 μl dimethylformamide. The apparent pH was checked in the same way as before, and adjusted with N-ethylmorpholine (1 μl at a time) if necessary. After 4 hours and 30 minutes (the apparent pH having been checked from time to time and adjusted if necessary), a similar solution of 7.3 mg of the active ester was added and the reaction allowed to continue for a further 4 hours. The reaction, as judged by t.l.c., was then essentially complete. The t.l.c. system was that described in Example 1(c) and the Rf values were approx. 0.3 and 0.6 for dansyl-lysine and the product, respectively. The mixture was then diluted to 1 ml with acetic acid (1%, v/v), centrifuged, and the supernatant subjected to HPLC (system of Example 4(c)). The major fluorescent peak eluting on the gradient (around 40% acetonitrile) was pooled, and the acetonitrile was driven off in a current of air. The product was characterized by measurement of its electrophoretic mobility at pH 6.5 (predicted and observed, 0.5 [mAsp=1.0]). To this stock solution (600 μl) were added 6 μl M HCl, and the solution was diluted ten-fold with 10−3M HCl. This brought the concentration to 0.7 mM, as judged by direct comparison of the u.v. absorption spectrum with that of a solution of dansyl-lysine of known concentration. It was assumed that the optical density of the dansyl chromophore would be approximately the same in the two substances.

reactant | Nε-dansyl-L-lysine | 9.5 mg | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)NCCCC[C@H](N)C(=O)O | C18H25N3O4S
reactant | N-ethylmorpholine | 3 μl | C(C)N1CCOCC1 | C6H13NO
reactant | 4-carboxybenzaldehyde dimethylacetal | COC(C1=CC=C(C=C1)C(=O)O)OC | C10H12O4
reactant | dansyl-lysine | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCCN)C(=O)O | C18H25N3O4S
solvent | dimethylformamide | 100 μl | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 μl | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Nε-dansyl-Nα-(m-formylbenzoyl)-lysine | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)NCCCC[C@H](NC(C1=CC(=CC=C1)C=O)=O)C(=O)O | C26H29N3O6S
